US07666879B2
C. [4-Hydroxymethyl-5-(1-methyl-cyclopropyl)-thiazol-2-yl]-carbamic acid tert-butyl ester
Dissolve 2-tert-butoxycarbonylamino-5-(1-methyl-cyclopropyl)-thiazole-4-carboxylic acid (2 g, 6.7 mmol) in THF (100 mL) and cool to 0° C. under nitrogen. Add triethylamine (0.93 mL, 1 equiv.) followed by the dropwise addition of isobutyl chloroformate (0.87 mL, 1 equiv.). Stir 30 minutes at 0° C. then filter, washing with THF. Cool filtrate back to 0° C. then add sodium borohydride (0.76 g, 3 equiv.) in one sum followed by the dropwise addition of methanol (4.1 mL, 15 equiv.). After 45 minutes at 0° C. remove cooling bath and let warm to room temperature for 15 minutes. Quench reaction (cautiously) with 1 N HCl (aq), approximately 50 mL. Extract with DCM. Wash organics with aqueous saturated sodium chloride. Dry organics over MgSO4 then filter and concentrate. Purify on silica gel (2:1 Hexanes:Ethyl Acetate→1:1 Hexanes:Ethyl Acetate) to give a white solid (1.11 g, 58%). LCMS (ES), m/z 229 (M+1, product→t Butyl).

reactant | 2-tert-butoxycarbonylamino-5-(1-methyl-cyclopropyl)-thiazole-4-carboxylic acid | 6.7 mmol, 2 g | C(C)(C)(C)OC(=O)NC=1SC(=C(N1)C(=O)O)C1(CC1)C | C13H18N2O4S
reactant | triethylamine | 0.93 mL, 1 equiv. | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 0.87 mL, 1 equiv. | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium borohydride | 0.76 g, 3 equiv. | [BH4-].[Na+]
reactant | methanol | 4.1 mL, 15 equiv. | CO | CH4O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | [4-Hydroxymethyl-5-(1-methyl-cyclopropyl)-thiazol-2-yl]-carbamic acid tert-butyl ester | 1.11 g, 58% | C(C)(C)(C)OC(NC=1SC(=C(N1)CO)C1(CC1)C)=O | C13H20N2O3S
